data/rdb19/train.csv
rxn,smiles,ea
2010,[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])([C:15]([H:16])[H:17])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[C:15]([C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([C:14]([H:24])([H:25])[H:26])[H:23])([H:16])[H:17])[H:8])([H:6])[H:7],12.039900742587632
5028,[C:11]([C:12]([C:13]([H:14])[H:15])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:13]([C:12]([C:11]([H:22])([H:23])[H:24])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:14])[H:15])([H:5])([H:6])[H:7].[C:3](=[C:4]([H:9])[H:10])[H:8],63.62050591275329
4234,[C:1]([O:2][C:3]([O:4][C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O:4][C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:28])[H:29])[C:20](=[O:21])[O:22][H:31])([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[H:30])([H:8])([H:9])[H:10],33.749377296771854
3948,[O:11][H:12].[O:1]([C:2]([C:3]([S:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5]>>[C:3]([S:4][H:10])([H:8])([H:9])[O:11][H:12].[O:1]([C:2]([H:6])[H:7])[H:5],47.43164853344206
580,[C:3](=[C:4]([N:5]([C:6](=[O:7])[H:12])[H:11])[H:10])([H:8])[H:9].[O:1][H:2]>>[C:3](=[C:4]([N:5][C:6](=[O:7])[H:12])[H:10])([H:8])[H:9].[O:1]([H:2])[H:11],7.983332496805815
5344,[C:17]([C:18]([C:19]([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])([H:10])[H:31],32.00023918913212
4147,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:21]([C:20]([H:26])([H:27])[H:28])([O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:21]([C:20]([H:26])([H:27])[H:28])=[O:22])([H:12])[H:13])([H:9])([H:10])[H:11].[O:23][C:24](=[C:25]([H:30])[H:31])[H:29],9.938757403113414
4535,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[N:18]([C:19](=[O:20])[H:26])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]([O:5][H:24])[O:6][H:12])([H:7])([H:8])[H:9],36.3994688357925
3673,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][C:22]([C:21]([C:19]([O:18][C:17]([H:24])([H:25])[H:26])=[O:20])[C:23]([H:29])([H:30])[H:31])([H:27])[H:28],28.955088232818525
2956,[C:16]([O:17][C:18](=[O:19])[C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23]([H:24])[H:25])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])[H:15])([H:13])[C:23]([C:20]([C:18]([O:17][C:16]([H:26])([H:27])[H:28])=[O:19])([C:21]([H:29])([H:30])[H:31])[C:22]([H:32])([H:33])[H:34])([H:24])[H:25])([H:11])[H:12])([H:8])([H:9])[H:10],15.249872541055083
2583,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[C:24]1([C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([C:23]([H:36])([H:37])[H:38])[H:35])[C:25]([H:39])[C:26]([H:40])=[C:27]([H:41])[C:28]([H:42])=[C:29]1[H:43])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13],24.99804830062203
1082,[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])[H:23].[C:1]([C:2]([C:3]([H:4])([H:5])[H:22])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],25.14676332270028
